US04118559
1-Bromo-3-(3-methoxyphenyl)butane
A solution of phosphorous tribromide (5.7 ml., 0.06 mole) in ether (30 ml.) is added to a solution of 3-(3-methoxyphenyl)-1-butanol (25.8 g., 0.143 mole) in ether (20 ml.) at -5° C. to -10° C. and the reaction mixture stirred at -5° C. to -10° C. for 2.5 hours. It is then warmed to room temperature and stirred for an additional 30 minutes. The mixture is poured over ice (200 g.) and the resulting mixture extracted with ether (3 × 50 ml.). The combined extracts are washed with 5% sodium hydroxide solution (3 × 50 ml.), saturated sodium chloride solution (1 × 50 ml.) and dried (Na2SO4). Removal of the ether and vacuum distillation of the residue affords the title product.

reactant | phosphorous tribromide | 0.06 mole, 5.7 ml | P(Br)(Br)Br | Br3P
reactant | 3-(3-methoxyphenyl)-1-butanol | 0.143 mole, 25.8 g | COC=1C=C(C=CC1)C(CCO)C | C11H16O2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-Bromo-3-(3-methoxyphenyl)butane | BrCCC(C)C1=CC(=CC=C1)OC | C11H15BrO
